### PR TITLE
[Merged by Bors] - feat: first main theorem of value distribution theory

### PR DESCRIPTION
**Pull request by kebekus**
Establish the first main theorem of value distribution theory in full.

This PR completes a major milestone in [Project VD](https://github.com/kebekus/ProjectVD), which aims to formalize Value Distribution Theory for meromorphic functions on the complex plane.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by grunweg** [comment]
This is great! Would you like to add an entry with Nevalinna's first theorem to `docs/overview.md`?

**Comment by kebekus** [comment]
@grunweg Will do.

**Comment by kebekus** [comment]
@grunweg Done. Also fixed the names of two theorems.

File: Mathlib/Analysis/Complex/ValueDistribution/FirstMainTheorem.lean [hunk 1]
```diff
@@ -22,19 +23,79 @@ of the characteristic function `characteristic f ⊤` under modifications of `f`
...
+  _ = circleAverage (log ‖f ·‖) 0 - (logCounting f⁻¹ ⊤ - logCounting f ⊤) := by
+    rw [proximity_sub_proximity_inv_eq_circleAverage h]
+  _ = circleAverage (log ‖f ·‖) 0 - (logCounting f 0 - logCounting f ⊤) := by
+    rw [logCounting_inv]
+  _ = circleAverage (log ‖f ·‖) 0 - (divisor f Set.univ).logCounting := by
+    rw [← ValueDistribution.log_counting_zero_sub_logCounting_top]
+
+/--
+First part of the First Main Theorem: Away from zero, the difference between the characteristic
+functions of `f` and `f⁻¹` equals `log ‖leadCoefficient f 0‖`.
```
Comment (sgouezel) [inline Mathlib/Analysis/Complex/ValueDistribution/FirstMainTheorem.lean]:
```suggestion
functions of `f` and `f⁻¹` equals `log ‖meromorphicTrailingCoeffAt f 0‖`.
```

File: Mathlib/Analysis/Complex/ValueDistribution/FirstMainTheorem.lean [hunk 2]
```diff
@@ -22,19 +23,79 @@ of the characteristic function `characteristic f ⊤` under modifications of `f`
...
+theorem characteristic_sub_characteristic_inv_at_zero (h : MeromorphicOn f Set.univ) :
+    characteristic f ⊤ 0 - characteristic f⁻¹ ⊤ 0 = log ‖f 0‖ := by
+  calc characteristic f ⊤ 0 - characteristic f⁻¹ ⊤ 0
+  _ = (characteristic f ⊤ - characteristic f⁻¹ ⊤) 0 := by simp
+  _ = circleAverage (log ‖f ·‖) 0 0 - (divisor f Set.univ).logCounting 0 := by
+    rw [ValueDistribution.characteristic_sub_characteristic_inv h]
+    rfl
+  _ = log ‖f 0‖ := by
+    simp
+
```
Comment (sgouezel) [inline Mathlib/Analysis/Complex/ValueDistribution/FirstMainTheorem.lean:89]: Don't you want to deduce from the two theorems the fact that there exists a constant `C` depending only on `f` with `|characteristic f ⊤ R - characteristic f⁻¹ ⊤ R| \le C` for all `R`? If I read correctly, that's the version which is true both for `f -> f^{-1}` and for `f -> f - c` (and therefore should be true for the whole SL(2) action, although I don't know if it's relevant in this area).

Comment (kebekus) [reply Mathlib/Analysis/Complex/ValueDistribution/FirstMainTheorem.lean:89]: @sgouezel Thanks for pointing that out. Following your suggestion, I modified the statements, making them similar to the statements that we have for the second part of the main theorem. If you agree, I would like to leave a potential discussion the SL(2) action to a later PR.

File: Mathlib/Analysis/Complex/ValueDistribution/FirstMainTheorem.lean [hunk 3]
```diff
@@ -22,19 +23,110 @@ of the characteristic function `characteristic f ⊤` under modifications of `f`
...
+  _ = circleAverage (log ‖f ·‖) 0 - (logCounting f 0 - logCounting f ⊤) := by
+    rw [logCounting_inv]
+  _ = circleAverage (log ‖f ·‖) 0 - (divisor f Set.univ).logCounting := by
+    rw [← ValueDistribution.log_counting_zero_sub_logCounting_top]
+
+/--
+Helper lemma for the first part of the First Main Theorem: Away from zero, the difference between
+the characteristic functions of `f` and `f⁻¹` equals `log ‖meromorphicTrailingCoeffAt f 0‖`.
+-/
+lemma characteristic_sub_characteristic_inv_off_zero
```
Comment (sgouezel) [inline Mathlib/Analysis/Complex/ValueDistribution/FirstMainTheorem.lean]:
```suggestion
lemma characteristic_sub_characteristic_inv_of_ne_zero
```

File: Mathlib/Analysis/Complex/ValueDistribution/FirstMainTheorem.lean [hunk 4]
```diff
@@ -22,19 +23,110 @@ of the characteristic function `characteristic f ⊤` under modifications of `f`
...
+  _ = log ‖meromorphicTrailingCoeffAt f 0‖ := by
+    rw [MeromorphicOn.circleAverage_log_norm hR (hf.mono_set (by tauto))]
+    unfold Function.locallyFinsuppWithin.logCounting
+    have : (divisor f (closedBall 0 |R|)) = (divisor f Set.univ).toClosedBall R :=
+      (divisor_restrict hf (by tauto)).symm
+    simp [this, toClosedBall, restrictMonoidHom, restrict_apply]
+
+/--
+Helper lemma for the first part of the First Main Theorem: At 0, the difference between the
+characteristic functions of `f`  and `f⁻¹` equals `log ‖f 0‖`.
```
Comment (sgouezel) [inline Mathlib/Analysis/Complex/ValueDistribution/FirstMainTheorem.lean]:
```suggestion
characteristic functions of `f` and `f⁻¹` equals `log ‖f 0‖`.
```

File: Mathlib/Analysis/Complex/ValueDistribution/FirstMainTheorem.lean [hunk 5]
```diff
@@ -22,19 +23,110 @@ of the characteristic function `characteristic f ⊤` under modifications of `f`
...
+  by_cases h : R = 0
+  · simp [h, characteristic_sub_characteristic_inv_at_zero hf]
+  · simp [characteristic_sub_characteristic_inv_off_zero hf h]
+
+/--
+First part of the First Main Theorem, qualitative version: If `f` is meromorphic on the complex
+plane, then the characteristic functions of `f` and `f⁻¹` agree asymptotically up to a bounded
+function.
+-/
+theorem characteristic_sub_characteristic_inv_eqO (h : MeromorphicOn f ⊤) :
```
Comment (sgouezel) [inline Mathlib/Analysis/Complex/ValueDistribution/FirstMainTheorem.lean]:
```suggestion
theorem isBigO_characteristic_sub_characteristic_inv (h : MeromorphicOn f ⊤) :
```

File: Mathlib/Analysis/Complex/ValueDistribution/FirstMainTheorem.lean [hunk 6]
```diff
@@ -22,19 +23,110 @@ of the characteristic function `characteristic f ⊤` under modifications of `f`
...
+  · rw [gt_iff_lt, add_comm]
+    apply lt_add_of_le_of_pos (by aesop) Real.zero_lt_one
+  · simp only [ge_iff_le, norm_eq_abs, Pi.abs_apply, Pi.sub_apply, abs_abs, Pi.one_apply, one_mem,
+      CStarRing.norm_of_mem_unitary, mul_one]
+    use 1
+    intro b _
+    calc |(characteristic f ⊤ - characteristic f⁻¹ ⊤) b|
+    _ ≤ max |log ‖f 0‖| |log ‖meromorphicTrailingCoeffAt f 0‖| := by
+      simp [characteristic_sub_characteristic_inv_off_zero h (by linarith)]
+    _ ≤ 1 + max |log ‖f 0‖| |log ‖meromorphicTrailingCoeffAt f 0‖| := by simp
```
Comment (sgouezel) [inline Mathlib/Analysis/Complex/ValueDistribution/FirstMainTheorem.lean]:
```suggestion
    |characteristic f ⊤ - characteristic f⁻¹ ⊤| =O[atTop] (1 : ℝ → ℝ) :=
  isBigO_of_le' (c := max |log ‖f 0‖| |log ‖meromorphicTrailingCoeffAt f 0‖|) _ 
    (fun R ↦ by simpa using characteristic_sub_characteristic_inv_le h (R := R))
```

File: Mathlib/Analysis/Complex/ValueDistribution/FirstMainTheorem.lean [hunk 7]
```diff
@@ -22,19 +23,110 @@ of the characteristic function `characteristic f ⊤` under modifications of `f`
...
+explicit constant.
+-/
+theorem characteristic_sub_characteristic_inv_le (hf : MeromorphicOn f Set.univ) :
+    |characteristic f ⊤ R - characteristic f⁻¹ ⊤ R|
+      ≤ max |log ‖f 0‖| |log ‖meromorphicTrailingCoeffAt f 0‖| := by
+  by_cases h : R = 0
+  · simp [h, characteristic_sub_characteristic_inv_at_zero hf]
+  · simp [characteristic_sub_characteristic_inv_off_zero hf h]
+
+/--
```
Comment (sgouezel) [inline Mathlib/Analysis/Complex/ValueDistribution/FirstMainTheorem.lean:102]: I'm not sure I'm convinced by this statement, because it is strictly weaker than the previous one. Why do you focus on asymptotic boundedness, while in fact it's everywhere boundedness?
Anyway, the proof can be significantly shortened using the IsBigO API.

Could you also streamline and rename the second part of the first main theorem in the same way?

**Review by sgouezel — COMMENTED** [review]
I agree SL(2) is not for this PR!

File: Mathlib/Analysis/Complex/ValueDistribution/FirstMainTheorem.lean (hunk 7 above)
Comment (kebekus) [reply Mathlib/Analysis/Complex/ValueDistribution/FirstMainTheorem.lean:102]: Streamlining and renaming: Done.

I understand that you are hesitant about the IsBigO-Statements. The reason I included those is that this formulation seems standard in the literature -- it seems that this is how the experts think about the result. You might rightfully question this motivation…

File: Mathlib/Analysis/Complex/ValueDistribution/FirstMainTheorem.lean [hunk 8]
```diff
@@ -73,10 +154,15 @@ Second part of the First Main Theorem of Value Distribution Theory, qualitative
 meromorphic on the complex plane, then the characteristic functions for the value `⊤` of the
 function `f` and `f - a₀` agree asymptotically up to a bounded function.
 -/
-theorem abs_characteristic_sub_characteristic_shift_eqO (h : MeromorphicOn f ⊤) :
-    |characteristic f ⊤ - characteristic (f · - a₀) ⊤| =O[atTop] (1 : ℝ → ℝ) := by
-  simp_rw [isBigO_iff', eventually_atTop]
-  use log⁺ ‖a₀‖ + log 2, add_pos_of_nonneg_of_pos posLog_nonneg (log_pos one_lt_two), 0
-  simp [abs_characteristic_sub_characteristic_shift_le h]
+theorem isBigO_abs_characteristic_sub_characteristic_shift (h : MeromorphicOn f ⊤) :
```
Comment (sgouezel) [inline Mathlib/Analysis/Complex/ValueDistribution/FirstMainTheorem.lean]: You have an `abs` in this theorem, but no `abs` in the theorem above. I think I would drop the `abs` in the lemma name, but also in the statements: for `IsBigO` theorems, it is equivalent to have them with or without abs, and it's slightly more readable without I think.

Comment (kebekus) [reply Mathlib/Analysis/Complex/ValueDistribution/FirstMainTheorem.lean]: Implemented as suggested. Thanks!

**Review by sgouezel — COMMENTED** [review]
bors r+
Thanks!
